US04335055
0.224 g (1 millimol) of palladium acetate, 12.65 g (50 millimols) of naphthalene-2,6-dicarboxylic acid dichloride, 13.04 g (125 millimols) of styrene and 18.53 g (100 millimols) of tri-n-butylamine in 50 ml of p-xylene are stirred for 2 hours at 120° C. The crude product is extracted in a Soxhlet and recrystallised from tetrahydrofuran. 6.1 g (37% of theory) of 2,6-distyrylnaphthalene are obtained as pale yellow crystals of melting point 294.7° C.

reactant | naphthalene-2,6-dicarboxylic acid dichloride | 50 millimols, 12.65 g | C1=C(C=CC2=CC(=CC=C12)C(=O)Cl)C(=O)Cl | C12H6Cl2O2
reactant | styrene | 125 millimols, 13.04 g | C=CC1=CC=CC=C1 | C8H8
reactant | tri-n-butylamine | 100 millimols, 18.53 g | C(CCC)N(CCCC)CCCC | C12H27N
reactant | p-xylene | 50 ml | CC=1C=CC(=CC1)C | C8H10
catalyst | palladium acetate | 1 millimol, 0.224 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2,6-distyrylnaphthalene | 6.1 g, 37% | C(=CC1=CC=CC=C1)C1=CC2=CC=C(C=C2C=C1)C=CC1=CC=CC=C1 | C26H20
